US04435405
To a solution of lithium di-isopropylamide [prepared from di-isopropylamine (6.2 ml.) and n-butyllithium (24.7 ml. of a 1.7 M solution in hexane) in dry tetrahydrofuran (100 ml.) at -78°. under argon] was added a solution of 2-(dimethylcarbamoylmethylthio)-3-phenylquinoline (6.6 g.) in dry tetrahydrofuran (50 ml.) at -60°. The mixture was then stirred for 15 min. at -60°. Iodomethane (2.7 ml.) was added and the mixture was allowed to warm up to ambient temperature. Glacial acetic acid (2.6 ml.) was then added, followed by water (200 ml.). The tetrahydrofuran phase was separated and retained, and the aqueous layer was extracted with ethyl acetate (2×30 ml.). The ethyl acetate and tetrahydrofuran phases were combined and dried (MgSO4). The solvent was evaporated and the residual oil was chromatographed on basic alumina (100 g. of Brockmann grade III) eluted with increasing concentrations of chloroform in petroleum ether. The eluate obtained with 20% v/v chloroform in petroleum ether on evaporation gave 2-[1-(dimethylcarbamoyl)ethylthio]-3-phenylquinoline as a viscous oil, which was used without further purification.

reactant | lithium di-isopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | di-isopropylamine | 6.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(dimethylcarbamoylmethylthio)-3-phenylquinoline | 6.6 g | CN(C(=O)CSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)C | C19H18N2OS
reactant | Iodomethane | 2.7 ml | IC | CH3I
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | acetic acid | 2.6 ml | C(C)(=O)O | C2H4O2
product | 2-[1-(dimethylcarbamoyl)ethylthio]-3-phenylquinoline | CN(C(=O)C(C)SC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)C | C20H20N2OS
